US06797726B1
In 5.0 mL of ethyl acetate is dissolved 1.20 g of 1-(5-{2-[2-(diethylamino)ethoxy]ethyl}-2-methoxyphenyl)-1-ethanone, to which is added 1.1 mL of 3.7 mol/L solution of dry hydrogen chloride in ethyl acetate. The solvent is distilled off under reduced pressure. The residue is dissolved in 6.0 mL of methylene chloride, to which are successively added at an ice-cooled temperature 1.60 g of aluminum chloride and 0.70 g of sodium iodide. The mixture thus obtained is stirred at ambient temperature for 2 hours. Ice water and chloroform are added to the reaction mixture, pH is adjusted to 8.0 with 1.0 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is dried over anhydrous magnesium sulfate and the solvent is distilled off under reduced pressure. Thus, 1.10 g of 1-(5-{2-[2-(diethylamino)ethoxy]ethyl}-2-hydroxyphenyl)-1-ethanone is obtained as an oily product.

reactant | 1-(5-{2-[2-(diethylamino)ethoxy]ethyl}-2-methoxyphenyl)-1-ethanone | 1.20 g | C(C)N(CCOCCC=1C=CC(=C(C1)C(C)=O)OC)CC | C17H27NO3
reactant | hydrogen chloride | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-{2-[2-(diethylamino)ethoxy]ethyl}-2-hydroxyphenyl)-1-ethanone | 1.10 g | C(C)N(CCOCCC=1C=CC(=C(C1)C(C)=O)O)CC | C16H25NO3
